SENSOR_FE_25_6T sensor core testbench (ngspice, sky130)
* Upstream AnalogGym source: AnalogGym/Sensing Front End/front_end_25_6T_schematic
* Testbench converted from: AnalogGym/Sensing Front End/TB_2T_sensor_core.sp

.include ./SENSOR_FE_25_6T_netlist.txt

.param mc_mm_switch=0
.param mc_pr_switch=0
.include ../sky130_pdk/libs.tech/ngspice/corners/tt.spice
.include ../sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include ../sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include ../sky130_pdk/libs.tech/ngspice/corners/tt/specialized_cells.spice

.PARAM supply_voltage = 1.8
.TEMP 27

VGNDA GNDA 0 0
VVDDA VDDA 0 DC 'supply_voltage' AC=1
* subckt pins: GND VDD VOUT (vsense connects to VOUT)
x0 GNDA VDDA vsense front_end_25_6T_schematic
c0 vsense 0 0.2p

.control
save all
set filetype=ascii
set units=degrees

* ---- supply current at 27C (op) ----
op
let idd = abs(i(VVDDA))
let vsense_op = v(vsense)
wrdata SENSOR_FE_25_6T_IDD idd
print idd vsense_op

* ---- PSR: AC=1 on supply, vdb(vsense) at low frequency ----
ac dec 10 1 1e6
meas ac psr FIND vdb(vsense) AT=1
wrdata SENSOR_FE_25_6T_PSR psr

* ---- line sensitivity: supply sweep 0.5x..1.5x of 1.8V ----
dc VVDDA 0.9 2.7 0.018
* LS window 0.8x..1.2x nominal = 1.44V..2.16V, range 0.4*1.8 = 0.72V
meas dc maxls MAX v(vsense) from=1.44 to=2.16
meas dc minls MIN v(vsense) from=1.44 to=2.16
meas dc avgls AVG v(vsense) from=1.44 to=2.16
meas dc ppls  PP  v(vsense) from=1.44 to=2.16
let ls = ppls/avgls/0.72
wrdata SENSOR_FE_25_6T_LS ls

* ---- temperature characteristic (ngspice: dc temp sweeps temperature) ----
dc temp 0 120 1
meas dc vout25 FIND v(vsense) AT=25
meas dc vout75 FIND v(vsense) AT=75
let vtc = vout25
let lsb = (vout75-vout25)/50
meas dc maxv MAX v(vsense) from=0 to=120
meas dc minv MIN v(vsense) from=0 to=120
meas dc avgv AVG v(vsense) from=0 to=120
meas dc ppv  PP  v(vsense) from=0 to=120
let tc = ppv/avgv/120
wrdata SENSOR_FE_25_6T_TEMP vtc lsb tc
.endc

.end
